US06242443B1
3-Propylamino-7-trifluoromethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide
3-(Imidazol-1-yl)-7-trifluoromethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide was treated with propylamine according to the general procedure Method A to give the title compound; m.p. 241-243° C.

reactant | 3-(Imidazol-1-yl)-7-trifluoromethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | N1(C=NC=C1)C1=NS(C2=C(N1)C=CC(=C2)C(F)(F)F)(=O)=O | C11H7F3N4O2S
reactant | propylamine | C(CC)N | C3H9N
product | 3-Propylamino-7-trifluoromethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | C(CC)NC1=NS(C2=C(N1)C=CC(=C2)C(F)(F)F)(=O)=O | C11H12F3N3O2S
